US04186135
49 g of 7-amino-1,4-benzodioxane-5-carboxylic acid, 200 ml of water and 50 ml of hydrochloric acid were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was cooled to 5° C. and then a solution of 17.5 g of sodium nitrite in 38 ml of water was added. The suspension was then poured into a solution of 20 g of cuprous chloride in 75 ml of hydrochloric acid. The precipitate was dried off, washed and dissolved in a solution of 42 g of sodium bicarbonate in 420 ml of water. The solution was filtered and treated with 100 ml of hydrochloric acid. 50 g of 7-chloro-1,4-benzodioxane-5-carboxylic acid was produced (M.P.: 180° C.; yield: 92.7%).

reactant | 7-amino-1,4-benzodioxane-5-carboxylic acid | 49 g | NC=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H9NO4
reactant | sodium nitrite | 17.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 38 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 7-chloro-1,4-benzodioxane-5-carboxylic acid | 50 g, yield: 92.7% | ClC=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO4
